US08048878B2
Synthesis of (6S,9aR)-6-(3,4-difluorophenyl)octahydroquinolizin-4-one
Platinum oxide (48 mg) was added to a solution of (6S,9aR)-6-(3,4-difluorophenyl)-3,6,7,8,9,9a-hexahydroquinolizin-4-one (558 mg) in methanol (15 mL), and the reaction solution was stirred in a hydrogen stream at room temperature for three hours. The reaction solution was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 400 mg of the title compound. The property value of the compound is as follows.

reactant | (6S,9aR)-6-(3,4-difluorophenyl)-3,6,7,8,9,9a-hexahydroquinolizin-4-one | 558 mg | FC=1C=C(C=CC1F)[C@H]1N2C(CC=C[C@H]2CCC1)=O | C15H15F2NO
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15 mL | CO | CH4O
catalyst | Platinum oxide | 48 mg | [Pt]=O
product | (6S,9aR)-6-(3,4-difluorophenyl)octahydroquinolizin-4-one | 400 mg | FC=1C=C(C=CC1F)[C@H]1N2C(CCC[C@H]2CCC1)=O | C15H17F2NO
